US07981874B2
[4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]methyl dimethylphosphinate (1.1 g, 2.198 mmol) was taken up in DCM (20 mL)/TFA (8 mL). After 2 hours at room temperature the solvent was removed in vacuo. Saturated NaHCO3 was added and the products extracted into EtOAc (×2). The combined organic extracts were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was triturated in EtOAc to give [4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]methyl dimethylphosphinate as a beige solid. 1H-NMR (600 mHz, DMSO-d6) δ 9.72 (s, 1H), 7.98 (d, J=8.4 Hz, 2H), 7.49 (d, J=8.4 Hz, 2H), 7.44 (d, J=1.8 Hz, 1H), 7.32 (dd, J=4.8 and 1.2 Hz, 1H), 7.27 (dd, J=8.4 and 2.4 Hz, 1H), 7.21 (dd, J=3.6 and 1.2 Hz, 1H), 7.01 (dd, J=4.8 and 3.6 Hz, 1H), 6.78 (d, J=8.4 Hz, 1H), 5.13 (s, 2H), 5.01 (d, J=8.4 Hz, 2H), 1.45 (d, J=14.4 Hz, 6H). MS: cal'd 401 (MH+), exp 401 (MH+).

reactant | [4-({[2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]methyl dimethylphosphinate | 2.198 mmol, 1.1 g | CP(OCC1=CC=C(C=C1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)NC(=O)OC(C)(C)C)(=O)C | C25H29N2O5PS
reactant | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | [4-({[2-amino-5-(2-thienyl)phenyl]amino}carbonyl)phenyl]methyl dimethylphosphinate | CP(OCC1=CC=C(C=C1)C(=O)NC1=C(C=CC(=C1)C=1SC=CC1)N)(=O)C | C20H21N2O3PS
